US04808589
A solution of sodium hydroxide (12.7 g) in water (50 ml) and ethanol (50 ml) was added dropwise over 30 minutes to a solution of furanylmethyl mercaptan (34.25 g) and 4-chlorobutyronitrile (31.58 g) in ethanol (150 ml) under nitrogen at 10° C. (ice-bath). The temperature rose slightly (to 18° C.) and the solution went cloudy. It was stirred at room temperature for 6.5 hours and allowed to stand for 20 hours. Ethanol was removed by evaporation at reduced pressure. The residue was dissolved in water (100 ml) and the solution was extracted with chloroform . The combined extracts were washed with water, dried (MgSO4) and chloroform evaporated at reduced pressure. The residual light-brown liquid was vacuum-distilled to give 4-(2-furanylmethylthio)butyronitrile (51.16 g), b.p.0.05 mm 112°-5° C.

reactant | sodium hydroxide | 12.7 g | [OH-].[Na+]
reactant | furanylmethyl mercaptan | 34.25 g | O1C(=CC=C1)CS | C5H6OS
reactant | 4-chlorobutyronitrile | 31.58 g | ClCCCC#N | C4H6ClN
solvent | water | 50 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(2-furanylmethylthio)butyronitrile | 51.16 g | O1C(=CC=C1)CSCCCC#N | C9H11NOS
